US04639451
In 45 ml of dichloromethane was dissolved 2.0 g of α-acetoxypropionic acid. To this solution was added 2.1 ml of triethylamine and the mixture was cooled at -20° C. To this mixture was added dropwise 1.95 ml of isobutyl chloroformate and the mixture was reacted for 30 minutes at a temperature from -10° C. to -20° C. To the mixture was then added a solution of 3.0 g of 6-(p-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone in 20 ml of dimethylformamide, and the mixture was reacted for 90 minutes at room temperature. After the solvent was distilled off under reduced pressure, water was added to the residue and the whole was extracted with dichloromethane. The solvent was distilled off and the residue was purified by column chromatography on silica gel (solvent: benzene-acetic acid-methanol in a ratio of 10:3:0.6) whereby 2.7 g of the end product was obtained.

reactant | α-acetoxypropionic acid | 2.0 g | C(C)(=O)OC(C(=O)O)C | C5H8O4
reactant | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.95 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-(p-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 3.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | benzene-acetic acid methanol | C1(=CC=CC=C1)CC(=O)O.CO | InChI=1S/C8H8O2.CH4O/c9-8(10)6-7-4-2-1-3-5-7;1-2/h1-5H,6H2,(H,9,10);2H,1H3
